US06245743B1
To a solution of Boc-D-Arg(Tos)OH (11.2 g, 26.1 mmol), HOBt (3.9 g, 28.7 g), glycine benzyl ester hydrochloride (5.2 g, 26.1 mmol) in 52 mL of DCM is added DIEA (4.5 mL, 26.1 mmol) followed by DCC (5.9 g, 28.7 mmol; dissolved in 5 mL of DCM). After stirring for 18 h, the reaction mixture is cooled to −10° C. and the precipitate is filtered off. The filtrate is extracted twice with 1N Hcl (50 mL), twice with 5% NaHCO3 (50 mL), brine (50 mL), dried (MgSO4), and concentrated in vacuo to give 15.2 g (100%) of Boc-D-Arg(Tos)Gly-Gly-OBn as a white solid. RP-HPLC: 18.9 min.;C18, 0-100% CH3CN over 25 min., 1.5 mL/min.

reactant | Boc-D-Arg(Tos)OH | 26.1 mmol, 11.2 g | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O)C(=O)OC(C)(C)C | C18H28N4O6S
reactant | HOBt | 3.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | glycine benzyl ester hydrochloride | 26.1 mmol, 5.2 g | Cl.C(C1=CC=CC=C1)OC(CN)=O
reactant | DIEA | 26.1 mmol, 4.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DCC | 28.7 mmol, 5 mL, 5.9 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DCM | 52 mL | C(Cl)Cl | CH2Cl2
product | Boc-D-Arg(Tos)Gly-Gly-OBn | 15.2 g, 100% | N([C@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C29H40N6O8S
